US08859548B2
To a mixture of (S)-tert-butyl 1-(4-(4-bromo-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy) methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate (I-1a, 256 mg, 0.45 mmol), N-(2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propane-1-sulfonamide (SM-10, 292 mg, 0.81 mmol), aqueous 2.0 M Na2CO3 solution in DME (4 mL) was added PdCl2(dppf)•DCM. The reaction vial was sealed and irradiated at 120° C. for 10 minutes in a microwave reactor. LCMS indicated complete conversion and the reaction was allowed to cool to room temperature. The reaction mixture was diluted with water and extracted with EtOAc (2×). The combined organic portions were washed with water, brine, dried (Na2SO4), and concentrated to furnish a dark red oil. Purification by flash chromatography (SiO2, 50-100% EtOAc in heptane) provided (S)-tert-butyl 1-(4-(4-(2-chloro-3-(propylsulfonamido)phenyl)-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate (4A-1: 116 mg, 0.14 mmol) as a yellow oil: LCMS (m/z) 720.3, (MH), tR=1.03 minutes.

reactant | (S)-tert-butyl 1-(4-(4-bromo-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy) methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate | 0.45 mmol, 256 mg | BrC=1N=C(N(C1C1=NC(=NC=C1)NC[C@H](C)NC(OC(C)(C)C)=O)COCC[Si](C)(C)C)C1CC1 | C24H39BrN6O3Si
reactant | N-(2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propane-1-sulfonamide | 0.81 mmol, 292 mg | ClC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)CCC | C15H23BClNO4S
reactant | Na2CO3 | 2.0 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | PdCl2(dppf)•DCM | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (S)-tert-butyl 1-(4-(4-(2-chloro-3-(propylsulfonamido)phenyl)-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate | 0.14 mmol, 116 mg | ClC1=C(C=CC=C1NS(=O)(=O)CCC)C=1N=C(N(C1C1=NC(=NC=C1)NC[C@H](C)NC(OC(C)(C)C)=O)COCC[Si](C)(C)C)C1CC1 | C33H50ClN7O5SSi
